US04611023
1,1-Bis(3,5-di-tert-butyl-4-hydroxyphenylthio)-2-ethylhexane
The procedure of Example 1 is repeated using 23.84 grams of 2,6-di-tert-butyl-4-mercaptophenol, 6.41 grams of 2-ethylhexanal, and 150 ml of methyl alcohol. The product is purified by dry-column chromatography to give 10.29 grams of a clear syrup.

reactant | 2,6-di-tert-butyl-4-mercaptophenol | 23.84 grams | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | 2-ethylhexanal | 6.41 grams | C(C)C(C=O)CCCC | C8H16O
reactant | methyl alcohol | 150 ml | CO | CH4O
product | 1,1-Bis(3,5-di-tert-butyl-4-hydroxyphenylthio)-2-ethylhexane | 10.29 grams | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C(CCCC)CC)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C36H58O2S2
